US05157027
A. (E)-6,10-Dimethyl-5,9-undecadien-1-ol
A solution of 198 mL (58.0 mmol) of 0.29M Grignard reagent (Example 4, Part A(2)) in THF and 48 mL (275.9 mmol) of HMPA at 0° C. under argon was treated dropwise with 2.0 g (11.6 mmol) of geranyl chloride (Example 5, Part A) in 20 mL of THF. After addition, the reaction was allowed to warm to room temperature for 2 hours, at which point the reaction was diluted with 1:1 hexane/ether and quenched with 1 N HCl solution. The organic layer was washed with 1 N HCl followed by water, saturated sodium bicarbonate, brine, dried over MgSO4 and evaporated to provide 3.59 g of crude oil. Flash chromatography was performed on 360 g of silica gel packed and loaded with 10:1 hexane/EtOAc and eluted with 7:1 hexane/EtOAc collecting 30 mL fractions. Fractions 32 to 49 were combined and evaporated to provide 1.68 g (74%) of an oil.

reactant | HMPA | 275.9 mmol, 48 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | geranyl chloride | 11.6 mmol, 2.0 g | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane ether | CCCCCC.CCOCC
product | (E)-6,10-Dimethyl-5,9-undecadien-1-ol | 1.68 g, 74% | C\C(=C/CCCCO)\CCC=C(C)C | C13H24O
